US09422267B2
To a suspension of (S)—N-(2-fluoropyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamide (25 mg, 0.053 mmol) in ethanol (1 mL) was added Cs2CO3 (26 mg, 0.080 mmol) and the reaction mixture was allowed to stir at 80° C. for 12 h. The reaction mixture was concentrated, diluted with water (20 mL) and extracted with EtOAc (2×20 mL). The combined organic layer was dried over anhydrous sodium sulfate. Removal of EtOAc under reduced pressure gave an oily residue that was purified by reverse phase HPLC to afford 8 mg of (S)—N-(2-ethoxypyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamide as the TFA salt. 1HNMR (400 MHz, CD3OD) δ (ppm): 1.00-1.17 (m, 6H), 1.27 (t, 3H), 2.08-2.30 (m, 4H), 2.36-2.42 (m, 2H), 2.70-2.90 (m, 3H), 2.92-3.03 (m, 2H), 3.60-3.70 (m, 1H), 3.78-3.88 (m, 1H), 4.37 (q, 2H), 4.85-4.95 (m, 1H), 6.24 (s, 1H), 6.82-6.92 (m, 1H), 7.78-7.93 (m, 1H), 8.10-8.18 (m, 1H). The other enantiomer is prepared using the (R) chiral starting material.

reactant | (S)—N-(2-fluoropyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamide | 0.053 mmol, 25 mg | FC1=NC=CC=C1NC(=O)[C@H]1N(CCC1)C=1N=C(C2=C(N1)CCC2)NC2=NNC(=C2)C(C)C | C23H27FN8O
reactant | Cs2CO3 | 0.080 mmol, 26 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethanol | 1 mL | C(C)O | C2H6O
product | (S)—N-(2-ethoxypyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamide | 8 mg | C(C)OC1=NC=CC=C1NC(=O)[C@H]1N(CCC1)C=1N=C(C2=C(N1)CCC2)NC2=NNC(=C2)C(C)C | C25H32N8O2
